US06599902B2
Synthesis of 3-[1-[3,5-Dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-[2-(2-morpholin-4-yl-ethoxy)-phenylmethanesulfonyl]-1,3-dihydro-indol-2-one
5-[2-(2-Morpholin-4-yl-ethoxy)-phenylmethanesulfonyl]-1,3-dihydro-indol-2-one (46 mg, 0.12 mmol) was condensed with 3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde (30 mg, 0.12 mmol) and piperidine (1 drop) in ethanol (1.5 mL) at rt for 48 hours. The solid was collected by vacuum filtration and purified on a silica gel column to give 39 mg (55%) of the titled compound.

reactant | 5-[2-(2-Morpholin-4-yl-ethoxy)-phenylmethanesulfonyl]-1,3-dihydro-indol-2-one | 0.12 mmol, 46 mg | N1(CCOCC1)CCOC1=C(C=CC=C1)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C21H24N2O5S
reactant | 3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde | 0.12 mmol, 30 mg | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)C=O | C13H19N3O2
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | 3-[1-[3,5-Dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-[2-(2-morpholin-4-yl-ethoxy)-phenylmethanesulfonyl]-1,3-dihydro-indol-2-one | 39 mg, 55% | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1)OCCN1CCOCC1)=O | C34H41N5O6S
